US07488848B2
To a −78° C. methylene chloride solution (75 mL) of 2,2,3,3,3-pentafluoropropan-1-ol (1.5 g, 10.0 mmol) and DIPEA (6.1 mL, 35.0 mmol) was added triflic anhydride (1.78 mL, 10.5 mmol). After 2.5 h, S-tritylcysteine was added all at once and the reaction mixture was stirred at 0° C. for 80 min. The reaction mixture was stirred at RT for 18 h and then concentrated on the rotovap. Ethyl acetate was added and the reaction mixture was washed with 1N HCl. The organic layer was dried over magnesium sulfate, filtered and concentrated. The crude product was purified by flash chromatography (3 hexanes/1 ethyl acetate+1% acetic acid) to provide 2(R)-(2,2,3,3,3-pentafluoropropylamino)-3-tritylsulfanylpropionic acid (3.29 g).

reactant | 2,2,3,3,3-pentafluoropropan-1-ol | 10.0 mmol, 1.5 g | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | DIPEA | 35.0 mmol, 6.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triflic anhydride | 10.5 mmol, 1.78 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | S-tritylcysteine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC[C@H](N)C(=O)O | C22H21NO2S
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-(2,2,3,3,3-pentafluoropropylamino)-3-tritylsulfanylpropionic acid | 3.29 g | FC(CN[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(F)(F)F)F | C25H22F5NO2S
